US05864039
4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine (0.92 g) as starting compound was reacted and treated in the same manner as in Example 34 using phenyl isocyanate (0.37 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.68 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(4-(3-phenylureido)butyl)pyrrolidin-3-ylmethyl)-benzamide.

reactant | 4-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)butylamine | 0.92 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCCN | C14H29N3O2
reactant | phenyl isocyanate | 0.37 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.68 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(4-(3-phenylureido)butyl)pyrrolidin-3-ylmethyl)-benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCCNC(=O)NC2=CC=CC=C2)C=C1Cl)OC | C24H32ClN5O3
